US06255285B1
To a solution of 3.28 g (11.0 mmol) of Z-N-Me-Phg-OH, 2.16 g (9.17 mmol) of Tyr(3-tBu)-NH2 and 1.40 g (9.17 mmol) of HOBT in 60 ml of DMF, 1.42 ml (9.17 mmol) of DIC was added dropwise under cooling with ice and the mixture was stirred for 4 hours under cooling with ice. The reaction mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent consisting of methylene chloride, methanol and aqueous ammonia at a ratio of 100:5:1) to give Z-N-Me-Phg-Tyr(3-tBu)-NH2 in the amount of 4.03 g (85%).

reactant | Z-N-Me-Phg-OH | 11.0 mmol, 3.28 g | C(=O)(OCC1=CC=CC=C1)N([C@@H](C1=CC=CC=C1)C(=O)O)C | C17H17NO4
reactant | Tyr(3-tBu)-NH2 | 9.17 mmol, 2.16 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N | C13H20N2O2
reactant | HOBT | 9.17 mmol, 1.40 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIC | 9.17 mmol, 1.42 ml | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Z-N-Me-Phg-Tyr(3-tBu)-NH2 | C(=O)(OCC1=CC=CC=C1)N([C@@H](C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C | C30H35N3O5
